US07737136B2
trans-N-(7-Chloro-1,2,3,4,10,14b-hexahydrodibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)-2,2,2-trifluoroacetamide (Structure 75 of Scheme XVII)
To a solution of trans-7-chloro-1,2,3,4,10,14b-hexahydrodibenzo[b,f]pyrido[1,2-d][1,4]diazepine-1-amine (Structure 35 of scheme IX where X=N(H), R1=H, R2=H, R3=Cl, R4=H, R5=H, R10=H) (350 mg, 1.17 mmol) in methanol (22 mL) and triethylamine (0.7 mL) was added ethyl trifluoroacetate (1.5 mL). The reaction mixture was stirred at room temperature for 3 h. Water was added and the mixture was extracted with ethyl acetate (3×). The organic layers were washed with brine, dried (Na2SO4) and evaporated. After purification on silica with heptane/ethyl acetate 6:4 the title compound (90 mg, 19%) was obtained. Data: 1H-NMR (400 MHz, CDCl3) 1.69 (m, 1H), 1.86-1.94 (m, 2H), 2.11 (m, 1H), 2.99-3.09 (m, 2H), 4.47 (d, 1H), 4.86 (m, 1H), 5.79 (s, 1H, NH), 6.62 (d, J=8.2, 1H), 6.75 (dd, J=7.8, 1H), 6.89 (t, J=7.8, 1H), 6.91 (dd, J=8.2, J=2.7, 1H), 7.10 (d, J=2.7, 1H), 7.18 (t, J=7.8, 1H), 7.24 (d, J=7.8, 1H).

reactant | trans-7-chloro-1,2,3,4,10,14b-hexahydrodibenzo[b,f]pyrido[1,2-d][1,4]diazepine-1-amine | ClC1=CC2=C(NC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H18ClN3
reactant | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 1.5 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Water | O | H2O
solvent | methanol | 22 mL | CO | CH4O
product | trans-N-(7-Chloro-1,2,3,4,10,14b-hexahydrodibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)-2,2,2-trifluoroacetamide | ClC1=CC2=C(NC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H17ClF3N3O
